Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Biaxin
 
Attending: ___.
 
Chief Complaint:
Right great toe infection
 
Major Surgical or Invasive Procedure:
Right great toe bone, tissue biopsy.
 
History of Present Illness:
Ms. ___ is an ___ yo F CAD, valve replacements, HTN, gout, 
colostomy s/p colon ischemia related to diverticulitis, MRSA 
osteomyelitis on IV vanco presenting with concerns for right 
great toe recurrence of infection. Pt. started vancomycin while 
in ___ for osteomyelitis on q 48 hr dosing. She had a 
vancomycin trough of under 4. Since returning from ___, dose 
increased to every 24 hours, currently at 1 gram.  She was seen 
by PCP ___ ___ and cellultis was resolving at that time.  Plan 
was for patient to complete vancomycin course on ___ 
(total 6 week course??).  She presented to her PCP today with 
worsening erythema and swelling of R great toe and concern for 
worsening infection vs gout.  She denies f/s/c, n/v/d, pain or 
swelling of any other joints. Of note, GFR improved over IV 
course and was subtherapuetic on vanc last week for unclear 
amount of time. Missed a dose of vanco a week ago because of 
city-wide lock down. 

In the ED, initial vital signs were 96.8 50 93/56 18 94%.  Xray 
showed osseous destruction resorption of first proximal phalanx, 
consistent with osteomyelitis. No evidence of sub-cutaneous gas. 
Patient seen by podiatry, recommended Vanc with cipro and 
flagyl, consider amputation.  Labs notable for WBC of 12.3 with 
86% PMNs, HCT 34.1, and Cr 1.8.

On the floor, patient states that she is doing well. She denied 
having any pain or discomfort. 

Review of Systems:  
(+) see HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
1.  Type 2 diabetes.
2.  Atrial fibrillation, on Coumadin.
3.  Systolic heart failure with ejection fraction 35%.
4.  Status post AVR and MVR for rheumatic heart disease.
5.  Hyperlipidemia.
6.  Obesity.
7.  History of tobacco abuse
8.  Status post colostomy for diverticulosis without
diverticulitis.
9.  Emphysema
 
Social History:
___
Family History:
Significant for a brother who had TB.  Her father also had lung 
cancer
 
Physical Exam:
Admission:
Vitals- 97.2 129/58 90 91RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTA-B, poor air movement but no w/r/r  
CV- ___ SEM LUSB/LLSB, irregular
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- erythema of the great toe on the right, no drainage or 
tenderness with palpation
Neuro- CNs2-12 intact, motor function grossly normal  

Discharge:
Physical Exam:
97.8 97.7 112/63 (100s-130s/60s-80s) 88 (60s-100s) 18 95 2L (O2 
at night, mid ___ on RA during day)
LS: 200/200+
24: 1400/900
___ ___: ___ / 184
General- Alert, oriented, no acute distress  
Lungs- CTAB, no w/r/r 
CV- ___ SEM LUSB/LLSB, irregular
Abdomen- soft, non-tender
Ext- erythema of the great toe on the right within marked 
boundary, no drainage or tenderness with palpation 

 
Pertinent Results:
Admission:
___ 09:30PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 01:52PM   LACTATE-2.0
___ 01:45PM   GLUCOSE-172* UREA N-32* CREAT-1.8* SODIUM-140 
POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-27 ANION GAP-17
___ 01:45PM   estGFR-Using this
___ 01:45PM   WBC-12.3* RBC-3.92* HGB-10.7* HCT-34.1* 
MCV-87 MCH-27.3 MCHC-31.4 RDW-16.3*
___ 01:45PM   NEUTS-86.6* LYMPHS-5.9* MONOS-4.8 EOS-1.7 
BASOS-1.0
___ 01:45PM   PLT COUNT-270
.
Interim:
___ 04:33AM BLOOD ESR-60*
___ 05:42AM BLOOD ESR-60*
___ 04:33AM BLOOD CRP-27.9*
___ 06:50PM BLOOD Vanco-24.8*
___ 04:33AM BLOOD Digoxin-1.7
.
OP REPORT - DEBRIDEMENT OF RIGHT HALLUX ___
PRE-OP DX: RIGHT HALLUX INFECTION
POST-OP DX: GOUT
DESCRIPTION OF PROCEDURE:  After informed consent was
obtained, the patient and the debridement site were correctly
identified and marked.  Preoperative protocols were then
completed, and under mild sedation the patient was brought to
the operating room, where she remained on her hospital bed,
in the supine position.  After the right hallux was marked
and identified again, it was prepped in a sterile fashion.
Again, no tourniquet was used.  No antibiotics were given by
Anesthesia due to her previous course of antibiotics which
was given on the floor.  At this time, the right lower
extremity was scrubbed, prepped, and draped in the usual
sterile fashion and a total of 20 mL of 0.5% bupivacaine were
injected into the right hallux.

At this time, a linear incision was made on the dorsal aspect
of the right hallux and this was carried down to the
subcuticular layer.  The extensor hallucis longus was then
identified and retracted laterally, and the incision was
carried down to the level of the bone.  It was noted that
once this incision was made a copious amount of gouty tophi
was present.  These gouty tophi were collected and sent away
for microbiology.  A rongeur was then used on the proximal
phalanx and a bone sample was collected on the rongeur.  This
bone was sent for pathology and microbiology.  A Freer
elevator was used to remove gouty tophi that were located
through the IPJ of the right hallux.

At this time, a copious amount of irrigation was used to wash
out the IPJ of the right hallux, and after adequate washout,
___ nylon was used to realign the skin and close the
incision.  It is of note that there was no excessive bleeding
from this incision.  Adaptic was then placed over the intact
sutures.  We applied 4 x 4's and a Kerlix lastly and an Ace
bandage was wrapped around that.  The distal circulation was
then evaluated and seemed to be adequate to all remaining
digits.  The patient was then transported to the
postanesthesia care unit with vital signs stable and vascular
status intact to the right foot.  The patient tolerated the
procedure and anesthesia well, with no apparent
complications.  All sponge, needle, and instrument counts
were reported to be correct.  Estimated blood loss was
minimal.  Bone and gouty samples were sent to Pathology and
Microbiology.  It should be noted that Dr. ___ was present
and scrubbed for the entire procedure.

                        ___ ___

___:  ___, M.___.

.
Imaging:
___ Imaging FOOT AP,LAT & OBL RIGHT  
IMPRESSION:   
1.  Cortical destruction in the proximal phalanx of the great 
toe consistent with osteomyelitis.  A small step off along the 
distal surface of the proximal phalanx may just be cortical 
irregularity, although a small fracture cannot be excluded. 
2.  Cortical loss in the distal phalanx of the great toe, also 
consistent with osteomyelitis. 
3.  No evidence of subcutaneous gas. 
.
___ Imaging CHEST PORT. LINE PLACEM  
FINDINGS:  The right PICC line extends to the lower portion of 
the SVC, just above the cavoatrial junction.  Evidence of 
previous valve replacements with intact midline sternal wires.  
Enlargement of the cardiac silhouette with some prominence of 
ill-defined interstitial markings.  Some of this could reflect 
elevated pulmonary venous pressure, though in the presence of 
hyperexpansion, this also can be a manifestation of chronic 
pulmonary disease. 
.
Discharge:
___ 05:04AM BLOOD WBC-9.9 RBC-3.77* Hgb-10.3* Hct-33.0* 
MCV-88 MCH-27.4 MCHC-31.3 RDW-16.4* Plt ___
___ 05:04AM BLOOD Plt ___
___ 05:04AM BLOOD ___ PTT-33.6 ___
___ 05:04AM BLOOD Glucose-119* UreaN-29* Creat-1.4* Na-140 
K-3.7 Cl-102 HCO3-29 AnGap-13
___ 05:04AM BLOOD Calcium-8.8 Phos-3.9 Mg-2.___ yo F with multiple medical problems including recent 
diagnosis of right great toe osteomyelitis being treated with 
vancomycin presenting with worsening toe pain and erythema 

#. Osteomyelitis:  She repoted worsening toe pain and erythema 
and was admitted for further evaluation of 
infection versus gout.   She was on week ___ of IV Vancomycin at 
home and developed these symptoms despite IV Vancomycin and 
increased WBC to 12.3. X ray on ___ showed cortical destruction 
in the proximal phalanx of the great toe consistent with 
osteomyelitis. She was evaluated by infectious disease and 
podiatry.  Patient was initially treated with flagyl and 
ciprofloxacin per ID.  She was given three doses of colchicine 
for gout per podiatry. She underwent debridement and tissue 
culture in the operating room on ___. Grossly they found  
what appeared to be gouty tophi. Bone culture and pathology is 
pending at the time of discharge.
Antibiotics were narrowed back to IV Vancomycin with appropriate 
trough of 19.3. At the time of discharge she reported 
significant improvement in her symptoms. 

# Acute Gout: Patient has history of gout affecting the R great 
toe. She was continued on allopurinol renally dosed. Uric acid 
9.1. Colchicine (three doses) was given for possible 
inflammatory gout component to right great to osteomyelitis. Her 
symptoms were much improved at the time of discharge. 

# CKD - With eGFR ranging ___ dating back to ___ in Atruis 
records. Etiology unknown. Medications renally dosed for eGFR 
___.

#. Type 2 diabetes: Home glipizide held and insulin sliding 
scale started while in house.  Hold glipizide and start on 
insulin sliding scale.

#. Atrial fibrillation, on Coumadin: Continued home metoprolol 
and digoxin.  Coumadin increased to 2mg daily for subtherapeutic 
INR. 
.
.
Chronic Issues: 
#. Emphysema: Baseline oxygen requirement of 2 L NC at night. 
Albuterol and ipratroprium nebulizers as needed. No acute 
exacerbation.
#. Chronic systolic heart failure (EF 35%):  No evidence of 
acute exacerbation at this time. Continued home bumetanide. Her 
digoxin level was 1.7, which may be slightly high for an adult 
female but there was no evidence of toxicity. 
#. Status post AVR and MVR for rheumatic heart disease: Patient 
was stable from a valvular and volume stand point. Bioprosthetic 
valves in ___. 
#. Hyperlipidemia: Continued home statin.
#. Status post colostomy for diverticulosis without 
diverticulitis: Patient stated that there have been no 
significant changes in her output.
.
.
Transitional Issues:
- Follow up bone biopsy pathology 
- Follow up bone culture 
- Monitor INR closely while on antibiotics
- Consider recheck digoxin level 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Allopurinol ___ mg PO DAILY 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. DuoNeb *NF* (ipratropium-albuterol) 0.5 mg-3 mg(2.5 mg 
base)/3 mL Inhalation q8h:PRN SOB/Wheezing 
4. Bumetanide 2 mg PO QAM 
5. Bumetanide 1 mg PO QPM 
6. GlipiZIDE XL 10 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Metoprolol Tartrate 50 mg PO BID 
9. Digoxin 0.125 mg PO DAILY 
10. Warfarin 1 mg PO DAILY16 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Bumetanide 2 mg PO QAM 
3. Bumetanide 1 mg PO QPM 
4. Digoxin 0.125 mg PO DAILY 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 
6. Metoprolol Tartrate 50 mg PO BID 
7. Omeprazole 20 mg PO DAILY 
8. DuoNeb *NF* (ipratropium-albuterol) 0.5 mg-3 mg(2.5 mg 
base)/3 mL Inhalation q8h:PRN SOB/Wheezing 
9. GlipiZIDE XL 10 mg PO DAILY 
10. Vancomycin 500 mg IV Q 24H 
RX *vancomycin 500 mg 1 vial IV daily Disp #*5 Vial Refills:*0
11. Warfarin 2 mg PO DAILY16 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: osteomyelitis vs gout
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of ___ at the ___ 
___. ___ were admitted with right big toe inflammation. It 
was unclear whether this was due to an infection that was 
getting worse on intravenous antibiotics at home or another 
process such as gout. ___ were seen by the podiatry and 
infectious disease team here. ___ were continued on intravenous 
Vancomycin. However, the bone and fluid from your toe joint 
looked more like gout than infection. ___ will stay on 
antibiotics until we are sure that no bacteria are growing in 
the fluid we sampled (this will likely take a few days)

Changes have been made to your medication regimen.
CHANGE warfarin (aka coumadin) 1mg daily to 2mg daily

___ will take 1 vial (500mg) of an antibiotic called vancomycin 
daily until we determine that ___ do not have an infection. Dr. 
___ will be able to tell ___ the results of your culture at 
your appointment on ___.

Please call the ___ at ___ 
tomorrow to find out when your podiatry appointment will be.
 
Followup Instructions:
___